US05958376
N,N'-bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)-phenyl]-N-(2,3-dihydroxypropyl)urea
N,N'-bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)-phenyl]urea (0.25 g, 0.18 mmol) was dissolved in water (5 ml) followed by 2M aqueous NaOH (2.1 ml) and, after 5 min, bromopropane-2,3-diol (0.196 ml) was added. The solution was stirred for 4 days, neutralized with a strongly acidic cation exchange resin and evaporated to dryness. Purification by preparative HPLC gave 38 mg (14%) of the product as a white solid. MS (ESP, m/e): 1450 (M+).

reactant | N,N'-bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)-phenyl]urea | 0.18 mmol, 0.25 g | IC1=C(C(=C(C(=C1C(=O)NCCO)I)C(=O)NC(CO)CO)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NC(CO)CO)I)C(=O)NCCO)I | C27H30I6N6O11
reactant | NaOH | 2M, 2.1 ml | [OH-].[Na+]
reactant | bromopropane-2,3-diol | 0.196 ml | BrCC(CO)O | C3H7BrO2
solvent | water | 5 ml | O | H2O
product | N,N'-bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)-phenyl]-N-(2,3-dihydroxypropyl)urea | 38 mg, 14% | IC1=C(C(=C(C(=C1C(=O)NCCO)I)C(=O)NC(CO)CO)I)N(C(=O)NC1=C(C(=C(C(=C1I)C(=O)NC(CO)CO)I)C(=O)NCCO)I)CC(CO)O | C30H36I6N6O13
